US05026893
In an inert atmosphere enclosure, into a 200 Ml glass ampoule equipped with a Teflon/glass valve and magnetic stirring bar were added platinum acetylacetonate (0.04 g, 0.1 mmol) and n-octyltriallylsilane (20.0 g, 75.6 mmol). Subsequently, trichlorosilane (87.17 g, 643.5 mmol) was distilled into the ampoule using a vacuum line transfer system. The ampoule was placed in an oil bath and heated slowly to 40° C., at which temperature it was kept for 12 days. The excess trichlorosilane was removed in vacuo, and distillation of the product yielded 37.6 g (74.1% yield), b.p. 202°-20° C. at 0.001 mm Hg of n-octyl-tris-[3-(trichlorosilyl)propyl]silane.

reactant | n-octyltriallylsilane | 75.6 mmol, 20.0 g | C(CCCCCCC)[Si](CC=C)(CC=C)CC=C | C17H32Si
reactant | trichlorosilane | 643.5 mmol, 87.17 g | Cl[SiH](Cl)Cl | Cl3HSi
catalyst | platinum acetylacetonate | 0.1 mmol, 0.04 g | C/C(=C/C(=O)C)/[O-].C/C(=C/C(=O)C)/[O-].[Pt+2]
product | n-octyl-tris-[3-(trichlorosilyl)propyl]silane | 74.1% yield | C(CCCCCCC)[Si](CCC[Si](Cl)(Cl)Cl)(CCC[Si](Cl)(Cl)Cl)CCC[Si](Cl)(Cl)Cl | C17H35Cl9Si4
